US04178449
Ethyl 7-(α,α,α-trifluoro-o-tolyl)pyrazolo[1,5-a]pyrimidine-3-carboxylate
As for Example 1, ethyl 3-aminopyrazole-4-carboxylate is reacted with 3-dimethylamino-2'-(trifluoromethyl)acrylophenone to give the product as crystals, m.p. 148°-149° C.

reactant | ethyl 3-aminopyrazole-4-carboxylate | NC1=NNC=C1C(=O)OCC | C6H9N3O2
reactant | 3-dimethylamino-2'-(trifluoromethyl)acrylophenone | CN(C=CC(=O)C1=C(C=CC=C1)C(F)(F)F)C | C12H12F3NO
product | Ethyl 7-(α,α,α-trifluoro-o-tolyl)pyrazolo[1,5-a]pyrimidine-3-carboxylate | FC(C1=C(C=CC=C1)C1=CC=NC=2N1N=CC2C(=O)OCC)(F)F | C16H12F3N3O2
